US07300930B2
2,6-Bis(3-chloropropionamido)-9(10H)-acridone (AR-ACO-9)
2,6-Diamino-9(10H)-acridone (AR-ACO-8, 8.40 g, 37.3 mmol was suspended in 3-chloropropionyl chloride (100 mL), stirred at room temperature for 1 hr, at 90° C. for 1 hr, and at reflux for 6 hr. Allowed to stand at room temperature overnight and then chilled with ice-water. The product was collected and washed with acetone (2×30 mL) followed by toluene (3×30 mL), acetone again (4×30 mL), ethanol (2×30 mL), dry ether (2×30 mL) and finally hexane (2×30 mL). The product was dried over P2O5 under vacuum to yield a yellow solid AR-ACO-09 (12.96 g, 86%).

reactant | 2,6-Diamino-9(10H)-acridone | NC1=CC=2C(C3=CC=C(C=C3NC2C=C1)N)=O | C13H11N3O
reactant | 3-chloropropionyl chloride | 100 mL | ClCCC(=O)Cl | C3H4Cl2O
product | 2,6-Bis(3-chloropropionamido)-9(10H)-acridone | ClCCC(=O)NC1=CC=2C(C3=CC=C(C=C3NC2C=C1)NC(CCCl)=O)=O | C19H17Cl2N3O3
